US05955060
Friedel-Crafts acylation: In a 500 ml sulfonation flask having a stirrer, dropping funnel, condenser and internal thermometer, 22.9 g (0.1 mol) of 2,4-dichloro-6-(1-methylpyrrol-2-yl)-1,3,5-triazine and 24.2 g (0.22 mol) of resorcinol are initially introduced into 200 ml of xylene (isomer mixture). At 45-50° C., 29.3 g (0.22 mol) of aluminium chloride are slowly introduced and the mixture is stirred at 80-83° C. until the evolution of HCl has ended (about 2 hours). The warm reaction solution is allowed to run into dil. hydrochloric acid with stirring, and the solid is filtered off with suction and washed with acetone/water until neutral. Drying is carried out at 100° C. in vacuo. 30.5 g (81.0% of theory) of 2,4-bis(2,4-dihydroxyphenyl)-6-(1-methylpyrrol-2-yl)-1,3,5-triazine are obtained as a yellow powder (m.p.>300° C.). The structure is in agreement with the 1H-NMR spectrum.

reactant | 2,4-dichloro-6-(1-methylpyrrol-2-yl)-1,3,5-triazine | 0.1 mol, 22.9 g | ClC1=NC(=NC(=N1)Cl)C=1N(C=CC1)C | C8H6Cl2N4
reactant | resorcinol | 0.22 mol, 24.2 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | aluminium chloride | 0.22 mol, 29.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | HCl | Cl | ClH
solvent | xylene | 200 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2,4-bis(2,4-dihydroxyphenyl)-6-(1-methylpyrrol-2-yl)-1,3,5-triazine | 30.5 g, 81.0% | OC1=C(C=CC(=C1)O)C1=NC(=NC(=N1)C1=C(C=C(C=C1)O)O)C=1N(C=CC1)C | C20H16N4O4
